US08497278B2
4-((ethylamino)methyl)-N-((2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine (196)
To a suspension of 2-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methylamino)pyrimidine-4-carbaldehyde (110 mg, 0.29 mmol) in CH2Cl2 (5 mL) was added acetic acid (0.5 mL) until the reaction became clear. Ethylamine (0.87 mmol, 3.0 eq) and Na(OAc)3BH (0.58 mmol, 2.0 eq) were added and the reaction mixture was stirred for 18 h at room temperature. After this time the reaction was diluted with CH2Cl2 (20 mL) and quenched by the addition of satd. aq. NaHCO3 (10 mL). After stirring for 10 min the layers were separated and the organic layer was dried over Na2SO4, filtered, concentrated and purified by reverse phase preparatory HPLC (silica gel, acetonitrile/water w/0.05% TFA) to afford the desired product. (0.060 g, 37% yield). M/e+ 411.1 for C21H20ClFN6 (M+H)+; 1H-NMR (500 MHz, CDCl3, δ) 8.48 (d, J=1.5 Hz, 1H), 8.29 (d, J=5.0 Hz, 1H), 7.78-7.75 (m, 2H), 7.58 (d, J=9.5 Hz, 1H), 7.21-7.15 (m, 3H), 6.70 (d, J=5.5 Hz, 1H), 5.24 (br s, 1H), 5.05 (d, J=5.5 Hz, 2H), 3.77 (s, 2H), 2.72 (q, J=7.5 Hz, 2H), 1.15 (t, J=7.5 Hz, 3H).

reactant | 2-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methylamino)pyrimidine-4-carbaldehyde | 0.29 mmol, 110 mg | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CNC2=NC=CC(=N2)C=O | C19H13ClFN5O
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | Ethylamine | 0.87 mmol, 3.0 eq | C(C)N | C2H7N
reactant | Na(OAc)3BH | 0.58 mmol, 2.0 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-((ethylamino)methyl)-N-((2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine | 37% yield | C(C)NCC1=NC(=NC=C1)NCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)F | C22H23FN6
